US08017630B2
2-(4-Dimethylamino-4-phenylcyclohexyl)-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide
4-dimethylamino-4-phenylcyclohexyl-acetic acid hydrochloride (744 mg, 2.5 mmol) in dry dimethylformamide (10 ml) under argon. The clear solution was cooled in an ice-bath, dicyclohexylcarbodiimide (1.03 g, 5.0 mmol) was added and the mixture was stirred at RT for 5 d, during which dicyclohexylurea precipitated out. Working up of the mixture was carried out by separating off the urea which had precipitated out and introducing the filtrate into a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). Still further urea thereby precipitated out and was separated off. The aqueous phase was diluted with water (300 ml), 5 M sodium hydroxide solution (7 ml, 35 mmol) was added and the mixture was stored at 5° C. for 16 h. The product thereby precipitated out as a mixture with dicyclohexylurea as a beige-coloured solid in a yield of 93% (968 mg).

reactant | 4-dimethylamino-4-phenylcyclohexyl-acetic acid hydrochloride | 2.5 mmol, 744 mg | Cl.CN(C1(CCC(CC1)CC(=O)O)C1=CC=CC=C1)C
reactant | dicyclohexylcarbodiimide | 5.0 mmol, 1.03 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dicyclohexylurea | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
reactant | sodium hydroxide | 35 mmol, 5 M, 7 ml | [OH-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | 2-(4-Dimethylamino-4-phenylcyclohexyl)-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide | CN(C1(CCC(CC1)CC(=O)NC(CC1=CNC2=CC=CC=C12)C)C1=CC=CC=C1)C | C27H35N3O
